US07411072B2
5-Methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Add methylmagnesium bromide (3M solution in Et2O, 48.0 mL, 144 mmol) dropwise to a cooled (0° C.) solution of dibenzosuberone (20.0 g, 96.03 mmol) in THF (140 mL) under N2 (exothermic). Let solution warm up to room temperature and continue stirring for 2 h. Cool solution to 0° C. and quench with saturated aqueous NH4Cl (exothermic, emits gas). Extract into ethyl acetate, dry organics (MgSO4) and concentrate in-vacuo. Dissolve residue in 4N HCl/dioxane (40 mL) and stir at room temperature overnight. Concentrate and dilute with H2O. Extract into ethyl acetate, dry organics (MgSO4) and concentrate to a yellow oil. Purify crude product by loading onto a 30 g plug of silica gel and eluting with hexanes until eluent shows no UV activity. Combine and concentrate hexane washes to afford 16.72 g (84%) of the title compound as a white solid, mp 65.1° C. HPLC shows 98% purity.

reactant | methylmagnesium bromide | 144 mmol, 3M, 48.0 mL | C[Mg]Br
reactant | dibenzosuberone | 96.03 mmol, 20.0 g | C1CC2=CC=CC=C2C(=O)C3=CC=CC=C31 | C15H12O
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | 5-Methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 16.72 g, 84% | C=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H14
